US08022205B2
To 3-(2-bromo-ethyl)-1-bromo-benzene (0.15 ml, 1 mmol), 1-tert-butoxycarbonyl-piperazine (186 mg) and potassium carbonate (280 mg), acetonitrile (4 ml) was added, followed by stirring for 4 days. To the reaction mixture, ethyl acetate was added, which was washed with ammonium chloride solution, followed by drying over sodium sulfate. After filtering off the drying agent, the filtrate was concentrated under reduced pressure, to obtain 3-(2-(4-tert-butoxycarbonyl-piperazin-1-yl)-ethyl)-1-bromo-benzene as a colorless oil (340 mg, 92%).

reactant | 3-(2-bromo-ethyl)-1-bromo-benzene | 1 mmol, 0.15 ml | BrCCC=1C=C(C=CC1)Br | C8H8Br2
reactant | 1-tert-butoxycarbonyl-piperazine | 186 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | potassium carbonate | 280 mg | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 4 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-(4-tert-butoxycarbonyl-piperazin-1-yl)-ethyl)-1-bromo-benzene | 340 mg, 92% | C(C)(C)(C)OC(=O)N1CCN(CC1)CCC=1C=C(C=CC1)Br | C17H25BrN2O2
